US06114332
Reaction of 2-bromo-3-nitrobenzoic acid and 2,5-xylidine gave 2-(2,5-dimethyl phenylamino)-3-nitro benzoic acid (65%): mp (benzene/acetone) 215-217° C. 1H NMR [(CD3)2SO] δ 2.10 (s, 3 H, CH3), 2.23 (s, 3 H, CH3), 6.53 (s, 1H, H-6'), 6.79 (d, J=7.4 Hz, 1 H, H-4'), 7.02 (t, J=8.0 Hz, 1 H, H-5), 7.11 (d, J=7.7 Hz, 1 H, H-3'), 8.03 (dd, J=8.1, 1.4 Hz, 1 H, H-6), 8.22 (dd, J=7.7, 1.5 Hz, 1 H, H-4), 9.84 (br s, 1 H, NH), 13.8 (br s, 1 H, CO2H). Anal. (C15H14N2O4) C, H, N.

reactant | 2-bromo-3-nitrobenzoic acid | BrC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4BrNO4
reactant | 2,5-xylidine | NC=1C(=CC=C(C1)C)C | C8H11N
product | 2-(2,5-dimethyl phenylamino)-3-nitro benzoic acid | 65% | CC1=C(C=C(C=C1)C)NC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C15H14N2O4
